US04550105
Under ice-cooling and stirring, 2.10 ml of triethylamine is added to a solution of 2.94 g of cis-3-amino-1-(2,4-dimethoxybenzyl)-2-oxoazetidine-4-carboxylic acid methyl ester in 40 ml of methylene chloride, and a solution of 2.31 g of phenylacetyl chloride in 15 ml of methylene chloride is then added dropwise over 1 hour. The stirring is continued for another one hour under ice-cooling, and the reaction mixture is then washed successively with dilute hydrochloric acid, 5% aqueous sodium hydrogen carbonate and an aqueous sodium chloride solution, and dried over magnesium sulfate, and the solvent is distilled off in vacuo. Ether is added to the residue and the precipitated crystals are collected by filtration to give cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester, m.p. 124°-126° C.

reactant | triethylamine | 2.10 ml | C(C)N(CC)CC | C6H15N
reactant | cis-3-amino-1-(2,4-dimethoxybenzyl)-2-oxoazetidine-4-carboxylic acid methyl ester | 2.94 g | COC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)N | C14H18N2O5
reactant | phenylacetyl chloride | 2.31 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C22H24N2O6
